.include NOT.sub    
.include AND.sub

.subckt 2_4_DECODER A0 A1 D0 D1 D2 D3 vdd gnd

X1 A0 A0_inverted vdd gnd NOT
X2 A1 A1_inverted vdd gnd NOT
X3 A0 A1 D3 vdd gnd AND
X4 A0_inverted A1 D2 vdd gnd AND
X5 A0 A1_inverted D1 vdd gnd AND
X6 A0_inverted A1_inverted D0 vdd gnd AND

.ends 2_4_DECODER