.include XOR.sub
.include AND.sub
.include OR.sub

.subckt FA nodeA nodeB carry_in sum carry_out vdd gnd

*Full Adder

X1 nodeA nodeB node1 vdd gnd XOR
X2 nodeA nodeB node2 vdd gnd AND
X3 carry_in node1 sum vdd gnd XOR
X4 carry_in node1 node3 vdd gnd AND
X5 node2 node3 carry_out vdd gnd OR

.ends FA