.include NOR.sub
.include NOT.sub

.subckt OR nodeA nodeB output vdd gnd

X1 nodeA nodeB node1 vdd gnd NOR
X2 node1 output vdd gnd NOT

.ends OR
